US05753682
8. 4-(4-Methylimidazol-1-yl)benzyl alcohol
Prepared from 4-methylimidazole and ethyl 4-fluorobenzoate.

reactant | 4-methylimidazole | CC=1N=CNC1 | C4H6N2
reactant | ethyl 4-fluorobenzoate | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
product | 4-(4-Methylimidazol-1-yl)benzyl alcohol | CC=1N=CN(C1)C1=CC=C(CO)C=C1 | C11H12N2O
